US03993656
Preparation of [3-(Dimethylamino)-2-(imidazol-2-yl)-allylidene]-dimethylammonium hexafluorophosphate
The Vilsmeier Haack reagent is prepared using 140 ml. (1.8 mole) of dimethylformamide and 500 ml. of 3N phosgene in chloroform. 2-Methylimidazole (30.8 g., 0.375 mole) is added in portions over one hour maintaining the temperature at or below 10° C. and the mixture is then stirred overnight at ambient temperature. The reaction mixture is poured onto ice (490 g.), shaken and separated. The chloroform solution is extracted with water (35 ml.) and the combined aqueous solutions treated with sodium hexafluorophosphate (63.0 g., 0.375 mole). After filtering, the filtrate is cooled in an ice-bath while sodium carbonate anhydrate (139 g., 1.313 mole) is added in small portions. The crystalline precipitate obtained weighs 50.70 g. (39%) and melts at 185°-187° C. Recrystallization of the crude product from water (5 parts volume by weight) gives purified product melting at 191°-192° C. in the form of colorless crystals.

reactant | dimethylformamide | 1.8 mole | CN(C=O)C | C3H7NO
reactant | phosgene | 3N | C(=O)(Cl)Cl | CCl2O
reactant | 2-Methylimidazole | 0.375 mole, 30.8 g | CC=1NC=CN1 | C4H6N2
reactant | sodium hexafluorophosphate | 0.375 mole, 63.0 g | F[P-](F)(F)(F)(F)F.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [3-(Dimethylamino)-2-(imidazol-2-yl)-allylidene]-dimethylammonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.CN(C=C(C=[N+](C)C)C=1NC=CN1)C | InChI=1S/C10H17N4.F6P/c1-13(2)7-9(8-14(3)4)10-11-5-6-12-10;1-7(2,3,4,5)6/h5-8H,1-4H3,(H,11,12);/q+1;-1
